US07538223B2
(2R,3S)-tert-butyl 3-(3-fluoro-5-nitrophenoxy)-2-((methylamino)methyl)pyrrolidine-1-carboxylate.
To a solution of (2R,3S)-tert-butyl 3-(3-fluoro-5-nitrophenoxy)-2-((methylsulfonyloxy)methyl)pyrrolidine-1 -carboxylate (1.0 equiv) in THF (0.4 M) was added 40% aq. methylamine (90 equiv). The resulting solution was heated to 55° C. overnight. The reaction mixture was cooled to room temperature and diluted with EtOAc (20 volume equivalents) and washed twice with sat. aq. NaHCO3 and once with brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to provide the title compound as a dark oil with 147% mass balance; the material was used without further purification.

reactant | (2R,3S)-tert-butyl 3-(3-fluoro-5-nitrophenoxy)-2-((methylsulfonyloxy)methyl)pyrrolidine-1 -carboxylate | 1.0 equiv | FC=1C=C(O[C@@H]2[C@H](N(CC2)C(=O)OC(C)(C)C)COS(=O)(=O)C)C=C(C1)[N+](=O)[O-] | C17H23FN2O8S
reactant | methylamine | 90 equiv | CN | CH5N
solvent | THF | 0.4 M | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2R,3S)-tert-butyl 3-(3-fluoro-5-nitrophenoxy)-2-((methylamino)methyl)pyrrolidine-1-carboxylate | FC=1C=C(O[C@@H]2[C@H](N(CC2)C(=O)OC(C)(C)C)CNC)C=C(C1)[N+](=O)[O-] | C17H24FN3O5
